US04374980
Process for Producing 3'-Deamino-3'-morpholino-adriamycin
To a solution of adriamycin hydrochloride (20 mg; 0.034 mmoles) in 1 ml of DMF were added 200 mg (0.614 mmoles) of bis(2-iodoethyl)ether and 0.014 ml (0.104 mmoles) of triethylamine, and the reaction was carried out for 36 hours at room temperature. The product was worked up in the same way as in the purification procedure of Example 1 to give 13 mg (yield 61%) of the title compound.

reactant | adriamycin hydrochloride | 0.034 mmoles, 20 mg | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)CO)O)N)O.Cl
reactant | bis(2-iodoethyl)ether | 0.614 mmoles, 200 mg | ICCOCCI | C4H8I2O
reactant | triethylamine | 0.104 mmoles, 0.014 ml | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 3'-Deamino-3'-morpholino-adriamycin | 13 mg, yield 61% | C[C@H]1[C@H]([C@H](C[C@@H](O1)O[C@H]2C[C@@](CC3=C(C4=C(C(=C23)O)C(=O)C5=C(C4=O)C=CC=C5OC)O)(C(=O)CO)O)N6CCOCC6)O | C31H35NO12
